Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right leg pain and swelling; bloody diarrhea, fevers
 
Major Surgical or Invasive Procedure:
Sigmoidoscopy with biopsies of sigmoid and rectum ___

 
History of Present Illness:
___ year old woman with a history of UC p/w diarrhea and bloody 
stools c/f UC flare, found to have DVT.

Ms. ___ was diagnosed with left sided UC in ___ with weight 
loss and diarrhea, with tissue biopsies confirming descending, 
rectal, and colon colitis, initially on asacol (mesalamine), but 
she flared through this and was started on ___ 100mg. In ___, 
she had another flare requiring steroids and was ultimately 
tapered off. 

She was doing well until ___ when she had acute change in 
bowel habits. At baseline, has one to two BM a day. However, 
when her symptoms changed, she began having ___ bowel movements 
a day.  The stool itself was loose and had blood with tenesmus.  
She has been having low-grade fevers to 100.3 to 100.4 every day 
with associated chills. 

She presented to ___ in ___ and had a negative 
infectious workup (negative C diff, microsporidia, cyclospora, 
CRP 26.2). Sigmoidoscopy demonstrated mild active colitis. 
Started on cortifoam (hydrocortisone) but did not feel better. 
Then, she was started on uceris (budesonide) and humira 
(adalimumab) (40mg qod). She is now having ___ bloody BM per 
day with urgency and is very fatigued. She notably had URI 
symptoms this week with fever. Due for Humira on ___ and now 
stopped uceris.  She was advised to come to ED for evaluation 
given that she is feeling unwell. Likely require IV steroids, 
Humira levels and antibody. 

In the ED, vitals were notable for tachycardia to 106 and exam 
was notable for a mildly swollen, erythematous RLE. Labs were 
notable for an MCV of 105 but otherwise normal CBC and chem 
panel. Her CRP was 120, lactate 1.5. flu a/b negative, and d 
dimer 8000. KUB was notable for some gaseous distention without 
frankly dilated loops and no free air below the hemidiaphragm. 
___ Bilat ___ showed demonstrated extensive deep vein thrombosis 
in the right lower extremity, with nonocclusive thrombus in the 
right common femoral vein, and occlusive thrombus extending from 
the right femoral vein to the calf veins. 

On arrival, patient recounts the history above. She had no 
abdominal pain and is bothered only by the loose stools. She 
feels that Humira has not worked very well for her, and her 
symptoms have worsened on the medication. She is recovering from 
a "cold" and has had a few days of improving rhinorrhea after 
spending time with her children and grandchildren (toddlers).  

She also reports ___ of worsening RLE pain. She states it was 
cramping and burning, and worsened if she tried to bend the leg. 
She also endorsed a "tightness" that ran from her leg all the 
way up to he upper chest. She has not taken any recent long 
trips via car or plane, although she did travel 12h to ___ 
by car in ___. She has no personal history of blood clots, 
but her father apparently had a blood clot. 
 
Of note, patient had a splenectomy in ___ and cannot recall any 
recent immunizations or medical discussions about this. She does 
not keep antibiotics at home. She lives on ___ and is 
unaware of any special precautions she must take given her 
splenectomy. 

This morning, Ms. ___ was feeling okay. No abdominal pain. 
Last bowel movement was this morning and continues to be bloody. 
Still NPO. Able to ambulate.
 
Past Medical History:
1. Ulcerative colitis  
 2. Skin cancers - both ___ RLE and BCC (forehead s/p Mohs)  
 3. Hyperthyroidism - s/p RAI, now hypothyroid.  
 4. Diverticulosis  
 5. ITP - during pregnancy, treated with splenectomy
 6. Knee pain ___ UC 

Surgical Hx
1. s/p splenectomy  
 2. s/p tonsillectomy at age ___ y/o  
 3. s/p C-sections x2.  

 
Social History:
___
Family History:
FatherDeceased___ MELLITUS 
MotherDeceased57LUNG CANCER 
BrotherLiving66DIABETES TYPE II 
BrotherLiving65DIABETES TYPE II 
BrotherLiving61GLAUCOMA 
BrotherLiving55DIABETES TYPE II 
   HYPERTENSION 
SisterLiving___ 
 
 
Physical Exam:
ADMISSION PHYSICAL
=============
T: 98.3 BP: 119/81 P: 73 R: 18 O2: 95% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, hyperactive bowel 
sounds, no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses. Right lower extremity 
slightly larger in diameter with scattered petechiae and some 
erythema. Negative ___ sign and no palpable cord.   

DISCHARGE PHYSICAL
=============
 Temp 97.6 BP 149/89 HR 62 RR 20 97%RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear. PERRLA, EOMI, 
visual fields intact  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses. Compression stockings in 
place. Right lower extremity slightly larger in diameter with 
scattered petechiae.   

 
 
Pertinent Results:
LABS ON ADMISSION
=============
___ 06:15PM BLOOD WBC-6.5# RBC-3.88*# Hgb-12.7 Hct-40.7 
MCV-105*# MCH-32.7*# MCHC-31.2* RDW-14.4 RDWSD-55.5* Plt ___
___ 06:15PM BLOOD Neuts-65.6 Lymphs-18.7* Monos-9.6 Eos-4.9 
Baso-0.6 Im ___ AbsNeut-4.28# AbsLymp-1.22 AbsMono-0.63 
AbsEos-0.32 AbsBaso-0.04
___ 06:15PM BLOOD Plt ___
___ 06:15PM BLOOD Glucose-105* UreaN-15 Creat-0.7 Na-138 
K-3.9 Cl-100 HCO3-24 AnGap-18

NOTABLE LABS
=========
___ 06:15PM BLOOD D-Dimer-8345*
___ 09:54PM BLOOD CRP-120.8*
___ 06:33AM BLOOD CRP-46.1*
___ 09:54PM BLOOD SED RATE-Test      
___ 06:29PM BLOOD Lactate-1.5
___ 06:15PM BLOOD cTropnT-<0.01
___ 07:16AM BLOOD ALT-11 AST-17 LD(LDH)-228 AlkPhos-93 
TotBili-0.5

LABS ON DISCHARGE
=============
___ 06:33AM BLOOD WBC-8.7# RBC-3.54* Hgb-11.7 Hct-36.4 
MCV-103* MCH-33.1* MCHC-32.1 RDW-13.8 RDWSD-52.9* Plt ___
___ 06:33AM BLOOD Plt ___
___ 06:33AM BLOOD Glucose-130* UreaN-11 Creat-0.5 Na-143 
K-4.1 Cl-106 HCO3-23 AnGap-18

MICROBIOLOGY & PATHOLOGY
===================
__________________________________________________________
___ 6:19 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   OVA + PARASITES (Pending): 
__________________________________________________________
___ 6:19 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 
__________________________________________________________
___ 6:34 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      MODERATE POLYMORPHONUCLEAR LEUKOCYTES. 
__________________________________________________________
___ 1:18 am STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      MANY POLYMORPHONUCLEAR LEUKOCYTES. 

Colon biopsies ___ A Sigmoid at 30 cm:Chronic active colitis.
2 A. Sigmoid at 20 cm:Chronic active colitis.
3 A. Rectum:Chronic active colitis.
Note. Granulomas or dysplasia not identified. 

IMAGING
======
BILATERAL LOWER EXTREMITY VEIN US ___. Extensive deep vein thrombosis in the right lower extremity, 
with
nonocclusive thrombus in the right common femoral vein, and 
occlusive thrombus
extending from the right femoral vein to the calf veins.
2. No evidence of deep venous thrombosis in the left lower 
extremity veins.

XR ABDOMEN ___
Supine and upright views of the abdomen and pelvis were 
provided.  There is a
single clip seen projecting over the left upper abdomen.  The 
bowel gas
pattern is notable for gaseous distention of small large bowel 
without frankly
dilated loops.  Air-fluid levels in the colon noted.  No free 
air below the
right hemidiaphragm is seen.  No significant fecal load in the 
colon.  Bony
structures are intact.
 
IMPRESSION: 
 
As above.
 
 
Brief Hospital Course:
Ms. ___ is a very pleasant ___ year old woman with a history of 
UC, diverticulosis, and hypothyroidism who presented to ___ 
with 4 months of diarrhea and bright red blood per rectum and 
also with 5 days of leg swelling and tightness. During the 
course of her hospital stay, the following issues were 
addressed:

# DVT. Presented with 5 days of leg swelling, pain and a "vice 
grip" feeling in her right ___ extremity. In the ED, found to 
have a D-Dimer of 8345 and LENIs revealed extensive deep vein 
thrombosis in the right lower extremity, with nonocclusive 
thrombus in the right common femoral vein, and occlusive 
thrombus extending from the right femoral vein to the calf 
veins, no clot in left leg. Ms. ___ was placed on a heparin 
gtt and then transitioned to 7 days of Apixaban 10 mg (wash-in 
period) with plan for at least 3 months total anti-coagulation. 
This DVT most likely precipitated by the inflammatory state of 
patient's UC with several weeks of ongoing subacute flare. Risk 
factors include immobilization in ___, obesity, older age.

# UC flare. Per GI note, Ms. ___ was diagnosed with left sided 
UC on colonoscopy in ___ after having had symptoms 
for 3 months. She was initially treated with mesalamine 4.8 
grams and went into clinical remission. She flared again in 
___, and Rowasa enemas were added without benefit. 
She was eventually started on prednisone 60 mg in ___ with 
a bridge to ___. Her ___ was started at 50 mg and eventually 
increased to 100 mg daily in ___. She was in clinical 
remission and off steroids by ___. She was kept on 
mesalamine with her ___, and was in clinical remission until 
___ when she went from herbaseline 1 stool per day to 
up to 5 bowel movements per day. Stool studies were negative and 
a flex sig at that time showed active inflammation. Cortifoam 
enemas were added, but did not help, so she was started on 
Uceris 8mg daily in late ___. Step up therapy to anti TNF 
was discussed, and she was started on Humira 6 weeks ago and had 
received 2 loading doses prior to presentation to ___.

On this stay she endorsed ___ blood bowel movements for the 
past few weeks, with associated fevers. Initial CRP 120.8. She 
was placed on a 3 day course of Solumedrol 20 mg Q8H and then 
transitioned to Prednisone 40 mg daily. By hospital day 2 stools 
were without blood and output drop to ~ 3 semi-formed bowel 
movements per day.  Sigmoidoscopy ___ showed erythema, 
erosions, friability with contact bleeding, and loss of vascular 
pattern were noted in the sigmoid colon and rectum, ___ 2 
disease. Biopsies showed chronic, active colitis. Repeat CRP on 
day 3 of steroids was down to 46.1. Received one dose of Humira 
40 mg on ___.

Chronic:
========
Hypothyroidism. s/p RAI for Hyperthyroidism, followed by Dr. 
___, now with chronic hypothyroidism. Continued home 
Levothyroxine 112 mcg.

# Splenectomy. for ITP during her pregnancy in ___. Unclear 
immunization status with no antibiotics at home.
Meningococcal vaccine in ___, PPSV23 and PCV13 in ___ and 
___.
 

TRANSITIONAL ISSUES: 
==============
- Per gastroenterology, recommend outpatient MRCP given elevated 
Alk Phos (236 on 93 during this stay on ___
- DVT: Please continue Apixaban 10 mg BID for a total of 7 days 
(D1= ___ Day ___ before transitioning to 5 mg BID. Ms. 
___ will need at least 3 months of anticoagulation, with 
further need to be determined by gastroenterology and PCP.
- Steroid: Please continue Prednisone 40 mg until re-evaluation 
by gastroenterology on ___. She received 1 full day of 
Methylprednisone 20 mg TID (total 100 mg) while in-house
- Patient received one dose of Humira 40 mg while in-house 
(___). She will need her next scheduled dose in 2 weeks.
# Contact:  ___, husband/HCP, ___, 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine ___ 2400 mg PO BID 
2. Humira (adalimumab) 40 mg/0.8 mL subcutaneous EVERY 2 WEEKS 
3. Vitamin D 1000 UNIT PO DAILY 
4. Levothyroxine Sodium 112 mcg PO DAILY 
5. Omeprazole 40 mg PO BID 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*16 Tablet Refills:*0
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*20 
Tablet Refills:*0 
3.  Humira (adalimumab) 40 mg/0.8 mL subcutaneous EVERY 2 WEEKS  

4.  Levothyroxine Sodium 112 mcg PO DAILY  
5.  Mesalamine ___ 2400 mg PO BID  
6.  Omeprazole 40 mg PO BID  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
========
-Ulcerative colitis flare
-Deep venous thrombosis 

Secondary
========
-Hypothyroidism
-Left ventricular hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you at ___ 
___. You were admitted to ___ because you were 
found to have a deep venous thrombosis, or blood clot, in your 
right leg. Your ulcerative colitis flare was also not improving, 
with worsening diarrhea and blood in your stool.

We treated your blood clot with intravenous heparin and then 
switched you to the oral medication apixaban (Eliquis). For your 
ulcerative colitis flare, we used sigmoidoscopy to look at your 
colon and took a tissue sample of the inflamed areas. We also 
examined your stool with cultures to look for any infectious 
bugs. We gave you fluids when you arrived to help with your 
hydration. We gave you intravenous steroids to help with the 
inflammation in your colon. 

We found no infectious bugs in your stool culture. At discharge, 
you were no longer having bloody stools and you were feeling 
more energetic. Your C-reactive protein, a blood marker for 
inflammation, had decreased. Your leg swelling, redness, and 
pain had all significantly decreased. 

It is important for you to continue taking the apixaban as 
directed for your blood clot for at least 3 months. Continue to 
take 10 mg twice a day through ___. Then on ___ start taking 
5mg twice a day. Please follow up with your primary care 
provider ___ on ___ at 2:30pm and 
your GI doctor, ___ on ___ at 4:45pm.

Please take your medications as described in this discharge 
summary. If you experience any of the danger signs below, please 
contact your primary care physician or come to the emergency 
department immediately.

Best Wishes,

Your ___ health care team.
 
Followup Instructions:
___